US07253196B2
2-(bicyclo[2.2.1]hept-2-ylamino)-5-phenyl-1,3-thiazol-4(5H)-one
Synthesis was performed from N-bicyclo[2.2.1]hept-2-ylthiourea and methyl alpha-bromophenylacetate according to Method C.

reactant | N-bicyclo[2.2.1]hept-2-ylthiourea | C12C(CC(CC1)C2)NC(=S)N | C8H14N2S
reactant | methyl alpha-bromophenylacetate | BrC(C(=O)OC)C1=CC=CC=C1 | C9H9BrO2
product | 2-(bicyclo[2.2.1]hept-2-ylamino)-5-phenyl-1,3-thiazol-4(5H)-one | C12C(CC(CC1)C2)NC=2SC(C(N2)=O)C2=CC=CC=C2 | C16H18N2OS
